US06077954
N-(2-p-Toluenesulfonylethyl)-N-tritylsulfenyl-3-amino-1-O-p-toluenesulfonylpropanol
N-(2-hydroxyethyl)-N-tritylsulfenyl-3-amino-1-propanol (5.0 g, 12.64 mmol) is dissolved in pyridine (100 mL) and cooled to 0° C. p-Toluensufonylchloride (2.65 g, 13.9 mmol) is dissolve in CH2Cl2 (50 mL) and added to the reaction mixture at 0° C. via dropping funnel. The reaction is monitored by TLC to completion. The reaction mixture is concentrated in vacuo and the resultant residue is dissolved in EtOAc and washed with H2O (3×50 mL) and brine (2×50 mL). The EtOAc is dried (MgSO4), filtered and concentrated in vacuo. The residue is purified by silica gel column chromatography using EtOAc/hexanes as eluent. The appropriate fractions are pooled and concentrated in vacuo to give the title compound.

reactant | N-(2-hydroxyethyl)-N-tritylsulfenyl-3-amino-1-propanol | 12.64 mmol, 5.0 g | OCCN(CCCO)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H27NO2S
reactant | p-Toluensufonylchloride | 13.9 mmol, 2.65 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(2-p-Toluenesulfonylethyl)-N-tritylsulfenyl-3-amino-1-O-p-toluenesulfonylpropanol | C1(=CC=C(C=C1)S(=O)(=O)CCN(CCCOS(=O)(=O)C1=CC=C(C=C1)C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C38H39NO5S3
